US09107916B2
B. 2-(5-(4-fluorophenyl)-1H-pyrazol-1-yl)isonicotinonitrile
The title compound was prepared in 32% yield from 2-hydrazinylisonicotinonitrile (PREPARATION 2) and (E)-3-(dimethylamino)-1-(4-fluorophenyl)prop-2-en-1-one according to the procedure for the preparation of Example 26, part B. 1H NMR (500 MHz, CDCl3) δ 8.36 (d, 1H, J=4.8 Hz), 8.0 (s, 1H), 7.7 (s, 1H), 7.37 (d, 1H, J=3.8 Hz), 7.25 (d, 2H, J=5.8), 7.0 (t, 2H, J=8.7 Hz, 1H), 6.45 (s, 1H). [M+H] Calc'd for C15H9FN4, 265. Found, 265.

reactant | 2-hydrazinylisonicotinonitrile | N(N)C=1C=C(C#N)C=CN1 | C6H6N4
reactant | (E)-3-(dimethylamino)-1-(4-fluorophenyl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CC=C(C=C1)F)C | C11H12FNO
product | 2-(5-(4-fluorophenyl)-1H-pyrazol-1-yl)isonicotinonitrile | 32% yield | FC1=CC=C(C=C1)C1=CC=NN1C=1C=C(C#N)C=CN1 | C15H9FN4
